US05859153
Example 7. Preparation of catechol-(p-cresol) novolak
To a 1 liter, 3 necked round bottomed flask equipped with a paddle stirrer, condenser, thermometer and heating source, were added 159 g (1.45 moles) of catechol, 10 g (0.11 moles) of oxalic acid and 100 g of water. The mixture was stirred and heated to 60° C. Complete solution was obtained. 147 g (0.874 moles) of 2,6-bis(hydroxymethyl)-4-methylphenol were added, in eight equal portions. After the first portion was added, the temperature dropped several degrees. The temperature of the reaction mixture was raised to 70° C. and four more portions were added at 15 minute intervals. After five portions were added, the temperature of the reaction was raised to 80° C. and the remaining three portions were added at 15 minute intervals. The reaction product phase separated, with the water layer on top. The temperature was then raised to 110° C. and held for 10 minutes. The temperature was then raised to 185° C. and held for 15 minutes. Vacuum was gradually applied and ultimately brought to 30 mm Hg. The reaction mixture was held under these conditions for 30 minutes. The vacuum was broken and the hot product drained into an aluminum dish. After cooling, a dark brown, brittle solid was obtained. 13C NMR shows an average molecular weight of 994 and approximately 5.3%, by weight, of free catechol. Differential scanning calorimetry shows a Tg of 97° C.

reactant | catechol | 1.45 moles, 159 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | oxalic acid | 0.11 moles, 10 g | C(C(=O)O)(=O)O | C2H2O4
reactant | 2,6-bis(hydroxymethyl)-4-methylphenol | 0.874 moles, 147 g | OCC1=C(C(=CC(=C1)C)CO)O | C9H12O3
solvent | water | 100 g | O | H2O
product | catechol-(p-cresol) | C1=CC(=CC=C1O)C.C=1(O)C(O)=CC=CC1 | InChI=1S/C7H8O.C6H6O2/c1-6-2-4-7(8)5-3-6;7-5-3-1-2-4-6(5)8/h2-5,8H,1H3;1-4,7-8H
